US04332809
In the same manner as described in Example 13-(1), 4-methyl-6-(4-nitrophenyl)-2-pyridinecarboxylic acid (3.0 g), thionyl chloride (20 ml) and 5-aminotetrazole (1.29 g) are reacted to give N-(5-tetrazolyl)-4-methyl-6-(4-nitrophenyl)-2-pyridinecarboxamide (2.5 g). M.P. 284°-285° C. (decomp.) (wetted from 278° C.) (recrystallized from dimethylformamide-ethanol)

reactant | 4-methyl-6-(4-nitrophenyl)-2-pyridinecarboxylic acid | 3.0 g | CC1=CC(=NC(=C1)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)O | C13H10N2O4
reactant | 5-aminotetrazole | 1.29 g | NC1=NN=NN1 | CH3N5
solvent | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N-(5-tetrazolyl)-4-methyl-6-(4-nitrophenyl)-2-pyridinecarboxamide | 2.5 g | N1N=NN=C1NC(=O)C1=NC(=CC(=C1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C14H11N7O3
